US05965730
To 1,2-dichloroethane (150 ml) is added boron chloride (25 g) under ice-cooling, and the mixture is stirred for 15 minutes. To the reaction mixture is added dropwise a solution of 3,4-dimethoxyaniline (36.3 g) in 1,2-dichloroethane (150 ml), and thereto is added 4-cyanopyridine (27.1 g). The reaction mixture is heated under reflux overnight, and thereto is added 2 M hydrochloric acid (160 ml). The mixture is heated with stirring at 80° C. for two hours, and thereto is added a 2 M aqueous sodium hydroxide solution (450 ml) under ice-cooling. The mixture is separated to collect the 1,2-dichloroethane layer, and the aqueous layer is extracted with ethyl acetate. The organic layers are combined, washed, dried and concentrated. The residue is crystallized from ether to give 3,4-dimethoxy-6-isonicotinoylaniline (13.1 g).

reactant | boron chloride | 25 g | B(Cl)(Cl)Cl | BCl3
reactant | 3,4-dimethoxyaniline | 36.3 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | 4-cyanopyridine | 27.1 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | hydrochloric acid | 2 M, 160 ml | Cl | ClH
reactant | sodium hydroxide | 2 M, 450 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 3,4-dimethoxy-6-isonicotinoylaniline | 13.1 g | COC=1C=C(N)C(=CC1OC)C(C1=CC=NC=C1)=O | C14H14N2O3
